US05939448
Using 1-(2-benzyloxyethyl)thio-2-(2,4-difluorophenyl)-1,1-difluoro-2,3-epoxypropane (3.0 g, 0.008 mol), DMSO (30 ml), 1,2,4-triazole (1.4 g, 0.02 mol) and potassium carbonate (2.8 g, 0.02 mol), 1-(2-benzyloxyethyl)thio-2-(2,4-difluorophenyl)-1,1-difluoro-3-(1H-1,2,4-triazol-1-yl)propan-2-ol (0.62 g, yield: 17.4%) was obtained as a colorless oil by similar procedures to Example 14.

reactant | 1-(2-benzyloxyethyl)thio-2-(2,4-difluorophenyl)-1,1-difluoro-2,3-epoxypropane | 0.008 mol, 3.0 g | C(C1=CC=CC=C1)OCCSC(C1(CO1)C1=C(C=C(C=C1)F)F)(F)F | C18H16F4O2S
reactant | 1,2,4-triazole | 0.02 mol, 1.4 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 0.02 mol, 2.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
product | 1-(2-benzyloxyethyl)thio-2-(2,4-difluorophenyl)-1,1-difluoro-3-(1H-1,2,4-triazol-1-yl)propan-2-ol | 0.62 g, yield: 17.4% | C(C1=CC=CC=C1)OCCSC(C(CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F)(F)F | C20H19F4N3O2S
